US08431713B2
Step B: Preparation of tert-Butyl 4-(5-(4-(2,6-dichlorophenoxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate:
tert-Butyl 4-(5-(5-bromo-4-(2,6-dichlorophenoxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate (0.080 g, 0.13 mmol), methyllithium (0.092 ml, 0.15 mmol), butyllithium (0.056 mL, 0.15 mmol) and 2-(2-(pyridin-2-yl)disulfanyl)pyridine (0.038 g, 0.17 mmol) were reacted according to the procedure in Example 14, Step K, to give the title compound (0.015 g, 18% yield) as a white solid.

reactant | tert-Butyl 4-(5-(5-bromo-4-(2,6-dichlorophenoxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | 0.13 mmol, 0.080 g | BrC=1C(=CC(=NC1)NC1=NC(=NS1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=C(C=CC=C1Cl)Cl | C23H24BrCl2N5O3S
reactant | methyllithium | 0.15 mmol, 0.092 ml | C[Li]
reactant | butyllithium | 0.15 mmol, 0.056 mL | C(CCC)[Li]
reactant | 2-(2-(pyridin-2-yl)disulfanyl)pyridine | 0.17 mmol, 0.038 g | N1=C(C=CC=C1)SSC1=NC=CC=C1 | C10H8N2S2
product | tert-Butyl 4-(5-(4-(2,6-dichlorophenoxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | 0.015 g, 18% yield | ClC1=C(OC2=CC(=NC=C2SC2=NC=CC=C2)NC2=NC(=NS2)C2CCN(CC2)C(=O)OC(C)(C)C)C(=CC=C1)Cl | C28H28Cl2N6O3S2
